US06916898B2
Distillation was conducted in the same manner as in Example B2, except that the internal pressure of flask of 1.33×103 Pa was used instead of that of 1.33×104 Pa in Example B2, to thereby obtain about 10 g each of the forerun, middle-run, post-run and bottom. The compositions of 1,3-dimethyl-2-imidazolidinone and m-cresol contained therein were determined in the same manner as in Example B2 to give each the same composition, 1,3-dimethyl-2-imidazolidinone/m-cresol=51.35% by weight/48.65% by weight (1:1 by molar ratio), that is, no difference in compositions thereof was found.

reactant | 1,3-dimethyl-2-imidazolidinone | CN1C(N(CC1)C)=O | C5H10N2O
reactant | m-cresol | C1=C(C=CC=C1O)C | C7H8O
product | 1,3-dimethyl-2-imidazolidinone m-cresol | CN1C(N(CC1)C)=O.C1=C(C=CC=C1O)C | InChI=1S/C7H8O.C5H10N2O/c1-6-3-2-4-7(8)5-6;1-6-3-4-7(2)5(6)8/h2-5,8H,1H3;3-4H2,1-2H3
